US04436892
1-(2,6-Dichlorobenzoyl)-2-methyl-imidazole
20.5 g of 2-methylimidazole and 25.3 g of triethylamine are dissolved in 200 ml of tetrahydrofuran. To this solution are added dropwise, within 15 minutes at reflux temperature, 52.4 g of 2,6-dichlorobenzoyl chloride (dissolved in 100 ml of tetrahydrofuran). The mixture is refluxed for 30 minutes, and subsequently freed from triethylamine hydrochloride by filtration in vacuo. The filtrate is concentrated to dryness in a rotary evaporator and the residue is recrystallised from 130 ml of acetonitrile. The crystals are filtered off with suction, washed with acetonitrile, and dried at 60° C. in vacuo to thus obtain 46.0 g (72.2% of theory) of the product, m.p. 116°-119° C.

reactant | 2-methylimidazole | 20.5 g | CC=1NC=CN1 | C4H6N2
reactant | triethylamine | 25.3 g | C(C)N(CC)CC | C6H15N
reactant | 2,6-dichlorobenzoyl chloride | 100 ml, 52.4 g | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-(2,6-Dichlorobenzoyl)-2-methyl-imidazole | ClC1=C(C(=O)N2C(=NC=C2)C)C(=CC=C1)Cl | C11H8Cl2N2O
